US08859781B2
1-Chloroethyl benzoate (6.30 g, 34.12 mmol) and sodium iodide (23.0 g, 153.56 mmol) were combined in acetonitrile (150 mL) and heated to 60° C. for 2 hours. The reaction mixture was concentrated under reduced pressure. Diethyl ether and dichloromethane were added to the residue and the solids were filtered off and the filtrate was concentrated under reduced pressure. After silica gel chromatography using ethyl acetate in hexanes the residue was combined with sodium iodide (4.70 g, 31.39 mmol) in acetonitrile (50 mL) and heated to 60° C. for 1.5 hours. The reaction mixture was concentrated under reduced pressure. Diethyl ether was added, the solids were filtered off and the filtrate was concentrated under reduced pressure. Chromatography on silica gel using ethyl acetate in hexanes provided 1-iodoethyl benzoate as a pale yellow oil (3.67 g, 39% yield).

reactant | 1-Chloroethyl benzoate | 34.12 mmol, 6.30 g | C(C1=CC=CC=C1)(=O)OC(C)Cl | C9H9ClO2
reactant | sodium iodide | 153.56 mmol, 23.0 g | [I-].[Na+]
reactant | sodium iodide | 31.39 mmol, 4.70 g | [I-].[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-iodoethyl benzoate | 3.67 g, 39% yield | C(C1=CC=CC=C1)(=O)OC(C)I | C9H9IO2
